US06080773
Under an atmosphere of nitrogen, 5.6 g of lithium aluminum hydride were added to 500 ml of dry tetrahydrofuran. The mixture was cooled to -10° C. and a solution of 30 g of (S)-N-[1-[2-(1,2-benzisoxazol-3-yl)phenyl]-3-butenyl]-L-valine methyl ester in 500 ml of dry tetrahydrofuran was added slowly. The mixture was stirred at -10° C. for 16 h, after which 22 ml of water was slowly added. After stirring at room temperature for 0.5 h, magnesium sulphate was added. The solids were filtered off and the filtrate was evaporated to dryness under reduced pressure to yield 25 g of [S-(R*,R*)]-2-[[1[2-(1,2-benzisoxazol3-yl)phenyl]-3-butenyl]amino]-3-methyl-1-butanol.

reactant | lithium aluminum hydride | 5.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (S)-N-[1-[2-(1,2-benzisoxazol-3-yl)phenyl]-3-butenyl]-L-valine methyl ester | 30 g | COC([C@@H](NC(CC=C)C1=C(C=CC=C1)C1=NOC2=C1C=CC=C2)C(C)C)=O | C23H26N2O3
reactant | water | 22 ml | O | H2O
reactant | magnesium sulphate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 2-[[1[2-(1,2-benzisoxazol3-yl)phenyl]-3-butenyl]amino]-3-methyl-1-butanol | O1N=C(C2=C1C=CC=C2)C2=C(C=CC=C2)C(CC=C)NC(CO)C(C)C | C22H26N2O2
